US05496833
(a) 4-t-Butyl-2-chloro-6-(methylthiomethyl)aniline
4-t-Butyl-2-chloroaniline (30 g) was dissolved in dichloromethane (1.21) and the solution was cooled to -5° C. N-chlorosuccinimide (21.7 g) was added portionwise to the vigorously stirred solution and stirring was continued for 1 h. Dimethyl sulfide (35 ml) was added to the solution (-5° C.) and stirring was continued for a further 1 h. The solution was then cooled to -65° C. and triethylamine (27 ml) was added. This solution was allowed to warm to room temperature overnight. The solution was evaporated to half volume, washed with sodium hydroxide (1N), water and brine successively. The organic solution was dried and evaporated and the residue was purified on silica using hexane to 3% ether in hexane as eluant. This afforded the product (31.2 g) as a red oil. 1H NMR (CDCl3, 250 MHz) δ 1.27 (9H, s, (CH3)3), 1.99 (3H, s, SCH3 ), 3.69 (2H, s, CH2SCH3), 4.38 (2H, br s, NH2), 6.92 (1H, d, J=2.0 Hz, ArH), 7.21 (1H, d, J=2.0 Hz, ArH). MS (CI+) m/z 244 (M+ +1, 100%).

reactant | 4-t-Butyl-2-chloroaniline | 30 g | C(C)(C)(C)C1=CC(=C(N)C=C1)Cl | C10H14ClN
reactant | N-chlorosuccinimide | 21.7 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | Dimethyl sulfide | 35 ml | CSC | C2H6S
reactant | triethylamine | 27 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-t-Butyl-2-chloro-6-(methylthiomethyl)aniline | 31.2 g | C(C)(C)(C)C1=CC(=C(N)C(=C1)CSC)Cl | C12H18ClNS
